US07786307B2
a) 2-Methyl-2-(1-methyl-piperidin-3(R,S)-yl)-propionic acid
0.200 g of 2-methyl-2-(1-methyl-piperidin-3(R,S)-yl)-propionic acid methyl ester are dissolved in 4 ml of methanol. 4 ml of a 1M aqueous lithium hydroxide solution are added and the mixture is stirred for 16 hours at room temperature. The reaction mixture is neutralised with 1M HCl and extracted with ethyl acetate (3×50 ml). The organic phases are combined and concentrated by evaporation. The residue is purified by means of flash chromatography (SiO2 60F) to provide the title compound as a colourless oil. Rf 0.15 (150:54:10:1 dichloromethane-methanol-acetic acid-water).

reactant | 2-methyl-2-(1-methyl-piperidin-3(R,S)-yl)-propionic acid methyl ester | 0.200 g | COC(C(C)(C1CN(CCC1)C)C)=O | C11H21NO2
reactant | lithium hydroxide | 1M | [OH-].[Li+]
reactant | HCl | 1M | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
product | 2-Methyl-2-(1-methyl-piperidin-3(R,S)-yl)-propionic acid | CC(C(=O)O)(C)C1CN(CCC1)C | C10H19NO2
